US08138178B2
(S)-3-((S)-1-(4-(1-cyclopropyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-1,3-oxazinan-2-one
The title compound was prepared from (S)-6-(2-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one and 1-cyclopropyl-4-iodopyridin-2(1H)-one following a procedure analogous to that described in Example 23 Step 9. LC-MS Method 2 tR=1.05 min, m/z=505; 1H NMR (CDCl3) δ 0.88 (m, 2H), 1.12 (s, 3H), 1.15 (s, 1H), 1.17 (s, 1H), 1.21 (s, 3H), 2.18-2.29 (m, 2H), 2.30-2.34 (m, 1H), 2.42 (d, 1H), 2.54 (d, 1H), 2.90 (m, 1H), 3.35 (m, 1H), 5.70 (m, 1H), 6.32 (m, 1H), 6.68 (m, 1H), 6.98 (m, 1H), 7.09 (d, 2H), 7.18 (t, 1H), 7.25-7.36 (m, 4H), 7.50 (t, 1H).

reactant | (S)-6-(2-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | FC1=C(C=CC=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC(C)(C)O | C28H37BFNO5
reactant | 1-cyclopropyl-4-iodopyridin-2(1H)-one | C1(CC1)N1C(C=C(C=C1)I)=O | C8H8INO
product | (S)-3-((S)-1-(4-(1-cyclopropyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-1,3-oxazinan-2-one | C1(CC1)N1C(C=C(C=C1)C1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(CC(C)(C)O)C1=C(C=CC=C1)F)=O)=O | C30H33FN2O4
